US08975254B2
a) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide
Into a flask containing (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide (1 g, 2.416 mmol) dissolved in ethanol (10 ml), sodium borohydride (0.137 g, 3.62 mmol) was added in small parts under nitrogen atmosphere. The following mixture was stirred overnight in RT. Next morning water (1 ml) was added dropwise and the pH of the mixture was adjusted to under 7 with 1 M HCl and the mixture was evaporated. 30 ml of ethyl acetate was added and stirred for 30 min, filtered and the filtrate was evaporated and dried in vacuum at 40° C. The product was purified by recrystallizing it twice from diethyl ether/ethanol to yield 41.6% of the title compound. 1H-NMR (400 MHz; DMSO-d6): δ 1.10-1.16 (m, 3H), 1.44-1.48 (m, 3H), 4.29-4.52 (m, 3H), 4.94-4.02 (m, 3H), 6.22-6.26 (m, 1H), 6.95-6.99 (m, 1H), 7.83-7.88 (m, 1H), 7.93-8.00 (m, 2H), 8.07-8.10 (m, 1H), 8.11 (d, 1H), 8.33-4.39 (m, 1H).

reactant | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 2.416 mmol, 1 g | C(C)(=O)C=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O2S
reactant | sodium borohydride | 3.62 mmol, 0.137 g | [BH4-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | HCl | 1 M | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide | 41.6% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)O | C19H18ClN5O2S
